US04587236
1.0 g of 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione is reacted in pyridine with 5 ml of valeric anhydride as described in Example 2c. After the usual working-up process and purification on 50 g of silica gel with a methylene chloride-acetone gradient (0-15% acetone), 960 mg of 11β-hydroxy-6α-methyl-17-propionyloxy-21-valeryloxy-1,4-pregnadiene-3,20-dione is isolated.

reactant | 11β,21-dihydroxy-6α-methyl-17-propionyloxy-1,4-pregnadiene-3,20-dione | 1.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H34O6
reactant | valeric anhydride | 5 ml | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 11β-hydroxy-6α-methyl-17-propionyloxy-21-valeryloxy-1,4-pregnadiene-3,20-dione | 960 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(CCCC)=O)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C30H42O7
